US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone dihydrochloride
To a suspension of (6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino) quinoline-3-yl)(cyclopropyl)methanone (60 mg, 0.13 mmol), 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (54 mg, 0.20 mmol) and Pd(dppf)Cl2 (11 mg, 0.015 mmol) in dioxane (4 mL) was added Cs2CO3 (1.0 M in H2O, 0.4 mL, 0.4 mmol). The reaction mixture was degassed with nitrogen and heated at 80° C. for 2 h. The reaction mixture was cooled to room temperature, diluted with a satd. aq. NaHCO3 (20 mL) and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, concentrated and purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The desired fractions were combined and concentrated and the residue was dissolved in methanol (4 mL) and HCl (1.25 M in methanol, 1.5 mL, 1.9 mmol). The mixture was concentrated to obtain the desired product (42.9 mg, 55%) as an off-white solid. 1H NMR (500 MHz, MeOD) δ 9.35 (br s, 1H), 8.47 (br s, 1H), 8.27 (dd, J=8.8, 1.8 Hz, 1H), 7.98 (d, J=8.8 Hz, 1H), 7.60 (br s, 1H), 7.53 (d, J=11.1 Hz, 1H), 4.51 (br s, 1H), 3.74-3.66 (m, 2H), 3.18-3.07 (m, 4H), 2.85 (br s, 1H), 2.44 (br s, 2H), 2.24-1.96 (m, 5H), 1.83-1.71 (m, 2H), 1.36-1.18 (m, 6H). ESI MS m/z 522 [C30H33ClFN3O2+H]+; HPLC 98.9% (AUC), tR=10.35 min.

reactant | (6-bromo-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino) quinoline-3-yl)(cyclopropyl)methanone | 0.13 mmol, 60 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CCCC1 | C24H30BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.20 mmol, 54 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
reactant | Cs2CO3 | 0.4 mmol, 1.0 M, 0.4 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 1.9 mmol, 1.25 M, 1.5 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(pyrrolidin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone dihydrochloride | 42.9 mg, 55% | Cl.Cl.ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CCCC1 | InChI=1S/C30H33ClFN3O2.2ClH/c31-25-14-21(15-26(32)30(25)37)20-7-10-27-23(13-20)28(24(16-33-27)29(36)19-5-6-19)34-22-8-3-18(4-9-22)17-35-11-1-2-12-35;;/h7,10,13-16,18-19,22,37H,1-6,8-9,11-12,17H2,(H,33,34);2*1H/t18-,22-;;
